US07396847B2
N-[((5S)-3-{4′-[(5R)-5-({[tert-Butyl(dimethyl)sily]oxy}methyl)-2-oxo-1,3-oxazolidin-3-yl]-2,2′-difluoro-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide
Using essentially the same procedure as Example 28, but starting from N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide (0.38 g, 1.00 mM) and adding (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-[3-fluoro-4-(trimethylstannyl)phenyl]-1,3-oxazolidin-2-one (0.73 g, 1.50 mM) gave the title compound as a light yellow solid (0.334 g).

reactant | N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | 1.00 mM, 0.38 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CNC(C)=O)=O | C12H12FIN2O3
reactant | (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-[3-fluoro-4-(trimethylstannyl)phenyl]-1,3-oxazolidin-2-one | 1.50 mM, 0.73 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)[Sn](C)(C)C)F
product | N-[((5S)-3-{4′-[(5R)-5-({[tert-Butyl(dimethyl)sily]oxy}methyl)-2-oxo-1,3-oxazolidin-3-yl]-2,2′-difluoro-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 0.334 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)F | C28H35F2N3O6Si
